US04692443
The method described in J. Het. Chem., 14(1), 129(1977) was followed to react 2-chloro-3-aminopyridine with potassium thiocyanate and hydrochloric acid in ethanol to produce 45.3 g of 2-aminothiazolo[5,4-b]pyridine. M+Theory 151; Found 151.

reactant | 2-chloro-3-aminopyridine | ClC1=NC=CC=C1N | C5H5ClN2
reactant | potassium thiocyanate | [S-]C#N.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-aminothiazolo[5,4-b]pyridine | 45.3 g | NC=1SC2=NC=CC=C2N1 | C6H5N3S
